US06518268B1
Tri(dibenzylideneacetone)-dipalladium (0.18 g, 0.2 mmol), and triphenylphosphine (0.21 g, 0.8 mmol) were dissolved in tetrahydrofuran (60 mL), followed by stirring at room temperature for 30 minutes. Then, 5-bromo-2-fluorobenzaldehyde (0.4 g, 2.0 mmol) and 2-(tributylstannyl)-furan (1.25 mL, 4. 0 mmol) were added thereto, followed by heating under reflux for 10 hours. The mixture was cooled to room temperature, and after the conventional treatment, the residue was purified by silica gel column chromatography (hexane: ethyl acetate=8:1), to give 2-fluoro-5-(2-furyl)benzaldehyde (0.38 g, 100%).

reactant | triphenylphosphine | 0.8 mmol, 0.21 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 5-bromo-2-fluorobenzaldehyde | 2.0 mmol, 0.4 g | BrC=1C=CC(=C(C=O)C1)F | C7H4BrFO
reactant | tetrahydrofuran | 60 mL | O1CCCC1 | C4H8O
catalyst | 2-(tributylstannyl)-furan | 0 mmol, 1.25 mL | C(CCC)[Sn](C=1OC=CC1)(CCCC)CCCC
product | 2-fluoro-5-(2-furyl)benzaldehyde | 0.38 g, 100% | FC1=C(C=O)C=C(C=C1)C=1OC=CC1 | C11H7FO2
